US07897595B2
A solution of NBS (1.16 g, 6.50 mmol) in DCM (40 ml) was added dropwise to a stirred and cooled (0-5° C.) solution of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (1.97 g, 6.50 mmol) in DCM (40 ml) over a period of 20 min. After 30 minutes of stirring, the reaction was quenched with sat. aq. NaHCO3 and extracted with DCM. The organic layer was dried, concentrated in vacuo and purified by column chromatography to provide 920 mg (37%) of 4-bromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NMR (CDCl3) δ 4.36 (0.5H), 4.18 (2H), 4.00 (0.5H), 3.95 (3H), 3.79 (1H), 3.74 (1H), 3.70 (1H), 3.38 (1H), 3.23 (1H), 3.07 (1H), 1.19 (3H) ppm. 4-Bromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (57.0 mg, 0.15 mmol) of was deprotected using K2CO3 (62 mg, 0.45 mmol), MeOH (2.3 ml) and H2O (0.5 ml) at 55-60° C. for 30 minutes. After carefully removing MeOH under reduced pressure, the mixture was diluted with aq. NaHCO3 and extracted with DCM. The organic layer was dried over Na2SO4 and concentrated in vacuo to give 37.0 mg (86%) of 4-bromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NMR (CDCl3) δ 3.96 (s, 3H), 3.54 (m, 1H), 3.26 (dd, 2H), 3.18 (dd, 1H), 3.02 (d, 1H), 2.94 (dd, 1H), 2.78 (dd, 1H), 1.32 (d, 3H) ppm.

reactant | NBS | 6.50 mmol, 1.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 6.50 mmol, 1.97 g | COC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)N | C13H16F3N3O2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 920 mg, 37% | BrC1=C(C(=NC=2CCN(CC(C21)C)C(C(F)(F)F)=O)OC)N | C13H15BrF3N3O2
